US07276502B2
N-(3-Hydroxy-5-trifluoromethyl-phenyl)-guanidine 46:
A solution of 3-Amino-5-trifluoromethyl-phenol (0.21 g, 1.19 mmol), cyanamide (0.5 g, 1.19 mmol), 4N HCl in dioxane (2.975 ml, 1.199 mmol) in dioxane (10 ml) was heated in a sealed tube at 80° C. overnight resulting in complete conversion to product by TLC (10% MeOH:CH2Cl2). The reaction was partitioned between ethyl acetate/saturated NH4Cl solution and extracted. Some product remained in the aqueous phase after multiple extractions. The crude product (0.65 g, 0.297 mmol) was sufficiently pure by LC/MS to use directly for the next step.

reactant | 3-Amino-5-trifluoromethyl-phenol | 1.19 mmol, 0.21 g | NC=1C=C(C=C(C1)C(F)(F)F)O | C7H6F3NO
reactant | cyanamide | 1.19 mmol, 0.5 g | N#CN | CH2N2
reactant | HCl | 4N | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.199 mmol, 2.975 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-Hydroxy-5-trifluoromethyl-phenyl)-guanidine | OC=1C=C(C=C(C1)C(F)(F)F)NC(=N)N | C8H8F3N3O
